US06054453
Ethyl 3-[4-benzyloxyphenyl]-2-hexyloxypropanoate
The title compound (1.2 g, 22%) was prepared as an oil from ethyl 3-(4-benzyloxyphenyl)-2-hydroxypropanoate (4.2 g, 14.0 mmol) and 1-bromohexane (3.4 g, 21.0 mmol) by an analogous procedure to that described in preparation 5.

reactant | ethyl 3-(4-benzyloxyphenyl)-2-hydroxypropanoate | 14.0 mmol, 4.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)O | C18H20O4
reactant | 1-bromohexane | 21.0 mmol, 3.4 g | BrCCCCCC | C6H13Br
product | Ethyl 3-[4-benzyloxyphenyl]-2-hexyloxypropanoate | 1.2 g, 22% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)OCCCCCC | C24H32O4
